US07812183B2
(3S,4R)-3-Hydroxy-4-(5-methoxy-benzo[d]isoxazol-3-yloxy)-2,2-dimethyl-chroman-6-carbonitrile (Compound #44)
Following the procedure in Example 1, using (S,S)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile and 5-methoxy-benzo[d]isoxazol-3-one as starting materials, the title compound was prepared as a white solid.

reactant | (S,S)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile | CC1([C@@H]2[C@H](C3=CC(=CC=C3O1)C#N)O2)C | C12H11NO2
reactant | 5-methoxy-benzo[d]isoxazol-3-one | COC=1C=CC2=C(C(NO2)=O)C1 | C8H7NO3
product | (3S,4R)-3-Hydroxy-4-(5-methoxy-benzo[d]isoxazol-3-yloxy)-2,2-dimethyl-chroman-6-carbonitrile | O[C@@H]1C(OC2=CC=C(C=C2[C@H]1OC1=NOC2=C1C=C(C=C2)OC)C#N)(C)C | C20H18N2O5
